US09428518B2
Preparation of compound 1: 5,6,14,15-tetrachloro-8-phenyl-1H-isochromeno-[6′,5′,4′:10,5,6]anthra[2,1,9-mna]acridine-1,3(8H)-dione
A suspension of 9,10-dibromo-1,6,7,12-tetrachloroperylene-3,4-dicarboxylic acid anhidride (1.24 g, 2.0 mmol), diphenylamine (0.40 g, 2.40 mmol), Pd(AcO)2 (10 mmol %), sodium-tert-butoxide (0.48 g, 5.0 mmol), tricyclohexylphosphine (20 mol %) in 70 ml toluene was stirred at 100° C. under argon atmosphere for 24 h. The solvent was removed under reduced pressure. The solid was dissolved in dichloromethane and acetic acid and stirred overnight at 70° C. The solvent was removed under reduced pressure. The crude product was purified by column chromatography using dichloromethane as eluent on silica. Yield 0.50 g (40%).

reactant | 9,10-dibromo-1,6,7,12-tetrachloroperylene-3,4-dicarboxylic acid | BrC1=CC(=C2C3=C(C=C(C4=C(C=C(C(C=5C(=CC(=C1C25)Br)Cl)=C43)Cl)C(=O)O)C(=O)O)Cl)Cl | C22H6Br2Cl4O4
reactant | diphenylamine | 2.40 mmol, 0.40 g | C1(=CC=CC=C1)NC1=CC=CC=C1 | C12H11N
reactant | sodium-tert-butoxide | 5.0 mmol, 0.48 g | CC(C)([O-])C.[Na+]
reactant | tricyclohexylphosphine | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
solvent | toluene | 70 ml | C1(=CC=CC=C1)C | C7H8
product | 5,6,14,15-tetrachloro-8-phenyl-1H-isochromeno-[6′,5′,4′:10,5,6]anthra[2,1,9-mna]acridine-1,3(8H)-dione | ClC=1C=C2C=3C4=C(C=5C(=CC=6C7=CC=CC=C7N(C7=CC(=C(C5C67)C14)Cl)C1=CC=CC=C1)Cl)C(=CC3C(OC2=O)=O)Cl | C34H13Cl4NO3
